US05688946
A mixture of 610 mg (0.8 mmol) of crude (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-3-fluoro-2-hydroxypropyl]-1-Boc-imidazole-4-propionamide and 110 mg (0.8 mmol) of potassium carbonate in 10 ml of methanol is stirred at room temperature under argon for 1 hour. Subsequently, 100 mg (1.9 mmol) of ammonium chloride are added. The mixture is stirred at room temperature for a further 15 minutes and thereafter evaporated under reduced pressure. The residue is dissolved in 20 ml of ethyl acetate and washed in succession with 10 ml of water and 10 ml of saturated sodium chloride solution. The aqueous phases are back-extracted twice with 20 ml of ethyl acetate. The pooled organic phases are dried over sodium sulphate and evaporated under reduced pressure. For purification, the residue (300 mg of a foam) is purified on 50 g of silica gel using a 9:1:0.1 mixture of methylene chloride, isopropanol and ammonia as the eluent. After lyophilization from dioxan there are obtained 95 mg of (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-3-fluoro-2-hydroxypropyl]imidazole-4-propionamide as a colourless powder; MS: 633 (M+H)+.

reactant | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-3-fluoro-2-hydroxypropyl]-1-Boc-imidazole-4-propionamide | 0.8 mmol, 610 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](F)C1CC1)O)CC1CCCCC1)CC=1N=CN(C1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C38H57FN4O7S
reactant | potassium carbonate | 0.8 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | 1.9 mmol, 100 mg | [Cl-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
product | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-3-fluoro-2-hydroxypropyl]imidazole-4-propionamide | 95 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](F)C1CC1)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C33H49FN4O5S
